US05292747
From a mixture of 29.3 g of diethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-7,8-dicarboxylate, 100 ml of pyridine and 30 ml of acetic anhydride, the solvents were removed under reduced pressure and the residue was partitioned between ethyl acetate and 2M hydrochloric acid. The organic extract was washed with saturated sodium bicarbonate solution and water, dried and evaporated to give 33 g of diethyl 9-acetoxy-6,7-dihydropyrido[1,2-a]indole-7,8-dicarboxylate.

reactant | diethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-7,8-dicarboxylate | 29.3 g | OC1=C(C(CN2C1=CC1=CC=CC=C21)C(=O)OCC)C(=O)OCC | C18H19NO5
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | diethyl 9-acetoxy-6,7-dihydropyrido[1,2-a]indole-7,8-dicarboxylate | 33 g | C(C)(=O)OC1=C(C(CN2C1=CC1=CC=CC=C21)C(=O)OCC)C(=O)OCC | C20H21NO6
